US07557121B2
Preparation 36: 6-Bromo-N,N-dimethyl-nicotinamide
N,N′-Carbonyldiimidazole (1 g, 6.17 mmol) was added to a solution of 6-bromonicotinic acid (1 g, 4.95 mmol) in dimethylsulfoxide (4.16 mL) and the mixture was stirred for 24 hours. Dimethylamine (40% in water, 8.3 mL, 37 mmol) was then added and the mixture was stirred for a further 18 hours. The reaction mixture was then diluted with dichloromethane (20 mL) and washed with water (10 mL). The organic layer was dried over sodium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate to afford the title compound in 46% yield, 520 mg.

reactant | 6-bromonicotinic acid | 4.95 mmol, 1 g | BrC1=NC=C(C(=O)O)C=C1 | C6H4BrNO2
reactant | Dimethylamine | 37 mmol, 8.3 mL | CNC | C2H7N
solvent | dimethylsulfoxide | 4.16 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-Bromo-N,N-dimethyl-nicotinamide | 46% yield | BrC1=NC=C(C(=O)N(C)C)C=C1 | C8H9BrN2O
